US06660744B1
A solution of 3-(4-phenoxyphenyl)-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.300 g, 0.780 mmol) in pyridine (5 mL) at 0° C. was treated with 4-methyl-1-piperazinecarbonyl chloride hydrochloride (0.127 g, 0.780 mmol). The reaction mixture was stirred for 5 min at 0° C., after which the ice bath was removed, and the reaction stirred at room temperature over night. An additional equivalent of 4-methyl-1-piperazinecarbonyl chloride hydrochloride (0.127 g, 0.780 mmol) was added and stirred for 2 h. Solvent was removed under reduced pressure. Dichloromethane (10 mL) and sodium bicarbonate (5 mL) saturated aqueous solution were added to the solid. The layers were separated using an Empore extraction cartridge. The organic layer was removed under reduced pressure to give 0.417 g of crude material. The crude product was purified by flash chromatography on silica gel eluting 8% methanol in dichloromethane, 15% methanol in dichloromethane, and then 20% methanol in dichloromethane as eluent to give 0.178 g (45%) of 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino(4-methylpiperazino)methanone. A hot solution of 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino(4-methylpiperazino)methanone (0.178 g, 0.347 mmol) in ethyl acetate was treated with a hot solution of maleic acid (0.081 g, 0.693 mmol) in ethyl acetate. Upon cooling of the solvent a precipitate formed, was filtered under nitrogen, and dried under high vacuum to give 0.124 g of 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino(4-methylpiperazino)methanone bis-maleate.

reactant | 3-(4-phenoxyphenyl)-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.780 mmol, 0.300 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCNCC2 | C22H22N6O
reactant | 4-methyl-1-piperazinecarbonyl chloride hydrochloride | 0.780 mmol, 0.127 g | Cl.CN1CCN(CC1)C(=O)Cl
reactant | 4-methyl-1-piperazinecarbonyl chloride hydrochloride | 0.780 mmol, 0.127 g | Cl.CN1CCN(CC1)C(=O)Cl
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino(4-methylpiperazino)methanone | 0.178 g, 45% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCN(CC2)C(=O)N2CCN(CC2)C | C28H32N8O2
